US08252820B2
G. (2-Benzyloxy-4-bromo-6-fluorophenylamino)-acetic acid methyl ester
To a mixture of 2.6 g (8.78 mmol) of 2-benzyloxy-4-bromo-6-fluoroaniline and 3.03 g (21.96 mmol) of potassium carbonate in 20 mL DMF in an oil bath at 60° C. is added 1.48 g (9.67 mmole) of methyl bromoacetate. The mixture is stirred at 60° C. for 2 h. HPLC analysis indicated that the reaction is 38% complete. Additional methyl bromoacetate equal to the molar amount of unreacted starting material is added and the mixture is stirred at 60° C. for 2 h. This process is repeated until the starting material is nearly consumed. The mixture is allowed to cool then is poured into water. The mixture is extracted with ethyl acetate and the organic phase is washed 3× with water. The organic solution is dried over sodium sulfate and the solvent is removed under reduced pressure. The residual dark oil is purified by flash chromatography using methylene chloride to elute the product as a dark oil. This is used directly in the next step.

reactant | 2-benzyloxy-4-bromo-6-fluoroaniline | 8.78 mmol, 2.6 g | C(C1=CC=CC=C1)OC1=C(N)C(=CC(=C1)Br)F | C13H11BrFNO
reactant | potassium carbonate | 21.96 mmol, 3.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 9.67 mmole, 1.48 g | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2-Benzyloxy-4-bromo-6-fluorophenylamino)-acetic acid methyl ester | COC(CNC1=C(C=C(C=C1F)Br)OCC1=CC=CC=C1)=O | C16H15BrFNO3
